US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-4-(trifluoromethyl)benzamide (CJS 3697)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 4-(trifluoromethyl)benzoyl chloride to afford the title compound as a brown solid (33 mg, 61%). 1H-NMR (δ, ppm, DMSO-d6): 6.50 (d, 1H, HPy,5, J=6.0 Hz), 6.93 (d, 1H, Harom, J=7.0 Hz), 7.44 (t, 1H, Harom, J=8.0 Hz), 7.63 (s, 1H, Harom), 7.64-7.68 (m, 1H, Harom), 7.82 (d, 1H, HPy,6, J=6.0 Hz), 7.91 (d, 2H, Harom, J=8.0 Hz), 8.12 (d, 2H, Harom, J=8.0 Hz), 10.55 (s, 1H, NHamide), 11.20 (s, 1H, NHPy3), 11.38 (s, 1H, NHPy2).

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 4-(trifluoromethyl)benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-4-(trifluoromethyl)benzamide | 33 mg, 61% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)N1 | C20H13F3N4O3
